US07358364B2
Step 2: Preparation of 2-Benzyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran
A solution of bis-(pinacolato)diboron (2.64 g, 10.41 mmol) in anhyd DMSO (20 mL) was added to a stirred suspension of trifluoromethanesulfonic acid-4-(2-benzylbenzofuran-3 yl)phenyl ester, (4.09 g, 9.47 mmol) and potassium acetate (3.71 g, 37.9 mmol) in anhyd DMSO (20 mL). [1,1′-Bis(diphenylphosphino)-ferrocene]dichloropalladium(II)-DCM complex (770 mg, 0.95 mmol) was added as a solid, and the resulting suspension was heated to 80° C. for 4 h. The reaction mixture was cooled to room temperature, diluted with diethyl ether (150 mL), washed with water (2×50 mL), sat'd aq NaCl (3×50 mL), dried over anhyd MgSO4, filtered and concentrated in vacuo. Purification of the product by flash column chromatography, using 10% ethyl acetate/hexane as eluent, afforded the title compound as a white solid (2.96 g).

reactant | bis-(pinacolato)diboron | 10.41 mmol, 2.64 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
reactant | trifluoromethanesulfonic acid-4-(2-benzylbenzofuran-3 yl)phenyl ester | 9.47 mmol, 4.09 g | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)C=CC=C2 | C22H15F3O4S
reactant | potassium acetate | 37.9 mmol, 3.71 g | C(C)(=O)[O-].[K+]
reactant | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | 2-Benzyl-3-[4-(4,4,5,5-tetramethyl-[1,3,2]-dioxaborolan-2-yl)phenyl]-benzofuran | 2.96 g | C(C1=CC=CC=C1)C=1OC2=C(C1C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=CC=C2 | C27H27BO3
